US08476434B2
To a slurry of 4-(2-(4-amino-phenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.200 g, 0.682 mmol) and diisopropylethylamine (0.130 mL, 0.750 mmol) in THF (2 mL) under nitrogen was added phenyl chloroformate (0.100 mL, 0.682 mmol). After 30 min, ethyl 2-(phenylamino)acetate (0.244 g, 1.36 mmol) was added, and the sealed reaction was heated to 80 deg. C. for 16 h and 100 deg. C. for 8 h. The reaction was cooled to ambient temperature, and diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resulting solid was purified by silica gel chromatography, 0 to 10% MeOH/dichloromethane, to give a solid which was slurried in methanol and filtered, rinsed with diethyl ether, and dried in vacuo to give 3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1-phenylimidazolidine-2,4-dione as an off-white solid. MS m/z=453 [M+1]+. Calc'd for C25H20N6O2: 452.47.

reactant | 4-(2-(4-amino-phenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.682 mmol, 0.200 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H15N5O
reactant | diisopropylethylamine | 0.750 mmol, 0.130 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenyl chloroformate | 0.682 mmol, 0.100 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl 2-(phenylamino)acetate | 1.36 mmol, 0.244 g | C1(=CC=CC=C1)NCC(=O)OCC | C10H13NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | 3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1-phenylimidazolidine-2,4-dione | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)N1C(N(CC1=O)C1=CC=CC=C1)=O | C25H20N6O3
